US03935197
3,9-Dimethyl-2-[trans-2-(3,4,5-trimethoxyphenyl)ethenyl]-4H-pyrido[1,2-a]pyrimidin-4-one.
To a solution of 1.3g of sodium methoxide in 75ml of absolute ethanol is added 2.0g of 2,3,9-trimethyl-4H-pyrido-[1,2-a]pyrimidin-4-one, followed by 4.0g of 3,4,5-trimethoxybenzaldehyde. The mixture is stirred and heated under reflux for 89 hours. The reaction mixture is cooled, the solid is filtered, washed with 20ml of ether and 25ml of water, dried, and recrystallized from 75ml of acetonitrile to yield the title compound, melting point 218°-219°C dec.

reactant | sodium methoxide | 1.3g | C[O-].[Na+]
reactant | 2,3,9-trimethyl-4H-pyrido-[1,2-a]pyrimidin-4-one | 2.0g | CC=1N=C2N(C(C1C)=O)C=CC=C2C | C11H12N2O
reactant | 3,4,5-trimethoxybenzaldehyde | 4.0g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | ethanol | 75ml | C(C)O | C2H6O
product | 3,9-Dimethyl-2-[trans-2-(3,4,5-trimethoxyphenyl)ethenyl]-4H-pyrido[1,2-a]pyrimidin-4-one | CC1=C(N=C2N(C1=O)C=CC=C2C)\C=C\C2=CC(=C(C(=C2)OC)OC)OC | C21H22N2O4
